US07893058B2
Step 2: (4-Morpholin-4-yl-phenyl)-(5-tributylstannanyl-imidazo[1,2-a]pyrazin-8-yl)-carbamic acid tert-butyl ester
To a cooled (−78° C.) solution of (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (2.55 g, 5.38 mmol) in tetrahydrofuran (20 mL) is added isopropylmagnesium chloride (0.829 g, 8.06 mmol). After stirring for 5 min tributyltin chloride (2.97 g, 9.14 mmol) is added and the reaction is stirred at −78 ° C. for 10 min before being allowed to warm to room temperature. After stirring at room temperature for 30 min, the mixture is concentrated. The residue is purified by silica gel flash column chromatography eluting with 5:1 petroleum ether-ethyl acetate followed by 1:1 petroleum ether-ethyl acetate to afford the product as yellow solid (2.35 g, 64%).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | 5.38 mmol, 2.55 g | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C=1C=2N(C(=CN1)Br)C=CN2)=O | C21H24BrN5O3
reactant | isopropylmagnesium chloride | 8.06 mmol, 0.829 g | C(C)(C)[Mg]Cl
reactant | tributyltin chloride | 9.14 mmol, 2.97 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4-Morpholin-4-yl-phenyl)-(5-tributylstannanyl-imidazo[1,2-a]pyrazin-8-yl)-carbamic acid tert-butyl ester | 2.35 g, 64% | C(C)(C)(C)OC(N(C=1C=2N(C(=CN1)[Sn](CCCC)(CCCC)CCCC)C=CN2)C2=CC=C(C=C2)N2CCOCC2)=O | InChI=1S/C21H24N5O3.3C4H9.Sn/c1-21(2,3)29-20(27)26(19-18-22-8-10-25(18)11-9-23-19)17-6-4-16(5-7-17)24-12-14-28-15-13-24;3*1-3-4-2;/h4-10H,12-15H2,1-3H3;3*1,3-4H2,2H3;
